US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl][N-methyl-N-(1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared analogously to Example 1 by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane, triethylamine and 2-methylamino-1,2,3,4-tetrahydronaphthalene. Mp: 140°-142° C. (decomp.).

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 2-methylamino-1,2,3,4-tetrahydronaphthalene | CNC1CC2=CC=CC=C2CC1 | C11H15N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl][N-methyl-N-(1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)C(CC)N(C2CC3=CC=CC=C3CC2)C)=O)C=C1OC | C26H34N2O3
